US05360802
Step 2: 1-(Phenylsulphonylaminocarbonyl)-3-amino-benzene
In the same way as that described in Example 11, Step 2, using 1-(phenylsulphonylaminocarbonyl)-3-nitrobenzene (5 g, 16 mmol), 10% palladium on carbon (0.5 g, 10% (w/w)) in water (3 ml) and ethanol (100 ml), the title compound (3 g,67%) was afforded as a pale beige solid after recrystallisation from ethanol. mp 135°-138° C. 1H NMR (360 MHz, D6 -DMSO) δ 6.75-6.78 (1H, m), 6.96-6.98 (2H, m), 7.10 (1H, dd, J=8.0 and 8.0 Hz), 7.60-7.73 (3H, m), 7.97 (2H, m).

reactant | 1-(phenylsulphonylaminocarbonyl)-3-nitrobenzene | 16 mmol, 5 g | C1(=CC=CC=C1)S(=O)(=O)NC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C13H10N2O5S
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | water | 3 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(Phenylsulphonylaminocarbonyl)-3-amino-benzene | 3 g, 67% | C1(=CC=CC=C1)S(=O)(=O)NC(=O)C1=CC(=CC=C1)N | C13H12N2O3S
